### PR TITLE
[Merged by Bors] - feat(Data/Finset/Max): `min'_pair`, `max'_pair`

### PR DESCRIPTION
**Pull request by jsm28**
Add the lemmas:

```lean
lemma min'_pair (a b : α) : min' {a, b} (insert_nonempty _ _) = min a b := by
```

```lean
lemma max'_pair (a b : α) : max' {a, b} (insert_nonempty _ _) = max a b := by
```

and corresponding `min_pair` and `max_pair`. So that the primed lemmas can be proved by `simp`, like the unprimed ones, make `min'_insert` and `max'_insert` into `simp` lemmas, and swap the arguments to `min` and `max` on their RHS, also corresponding more closely to the unprimed lemmas `min_insert` and `max_insert`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Max.lean [hunk 1]
```diff
@@ -251,6 +251,20 @@ lemma min'_eq_iff (a : α) : s.min' H = a ↔ a ∈ s ∧ ∀ (b : α), b ∈ s
 lemma max'_eq_iff (a : α) : s.max' H = a ↔ a ∈ s ∧ ∀ (b : α), b ∈ s → b ≤ a :=
   ⟨(· ▸ ⟨max'_mem _ _, le_max' _⟩), fun h ↦ le_antisymm (max'_le _ _ _ h.2) (le_max' _ _ h.1)⟩
 
+@[simp] lemma min'_pair (a b : α) : min' {a, b} (insert_nonempty _ _) = min a b := by
+  rw [Finset.min'_eq_iff]
+  simp
+  rcases le_or_gt a b with h | h
+  · exact .inl h
+  · exact .inr h.le
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Max.lean]: If you move this down the file the proof is just
```suggestion
  rw [min'_insert, min'_singleton, min_comm]
```

Comment (eric-wieser) [reply Mathlib/Data/Finset/Max.lean]: The `min_comm` suggests to me that `min'_insert` might be stated backwards, though I haven't thought much about it.

**Comment by eric-wieser** [comment]
Perhaps the right thing to do here is tag `min'_insert` `@[simp]` and add no new lemmas?

**Comment by jsm28** [comment]
In the particular case where I'm using these lemmas (#29418) I want a concrete statement to use with `convert`; `simp` or `rw` don't work. (`convert` is needed to deal with different decidability instances; at least some of the lemma statements in this file are using decidable equality deduced from a linear order whereas in my case I have the decidable equality instance for `Fin`.)

**Comment by jsm28** [comment]
Note that since `min'_insert` requires the hypothesis `H`, its use as a `simp` lemma will be more limited, to when `simp` can prove `H` or a suitable hypothesis is passed to `simp`.

**Comment by eric-wieser** [comment]
In this case `simp` can prove the hypothesis, so I think it is fine to mark it `simp`

> In the particular case where I'm using these lemmas (https://github.com/leanprover-community/mathlib4/pull/29418) I want a concrete statement to use with convert;

If that's the case I guess we can keep the lemma, but a proof of `by simp` should work. Could you add the unprimed one too for consistency?

> at least some of the lemma statements in this file are using decidable equality deduced from a linear order whereas in my case I have the decidable equality instance for `Fin`

This diamond sounds like a bug elsewhere to me...

**Comment by jsm28** [comment]
I've opened #29422 to make the `insert` lemmas syntactically more general in the `DecidableEq` instances they use. (Not sure if there's a separate bug somewhere the the different instances on `Fin` not being defeq.)

**Comment by jsm28** [comment]
It seems less clear what the unprimed lemmas should state (where do the coercions to `WithTop` / `WithBot` go on the RHS?).

**Comment by jsm28** [comment]
I've added the unprimed lemmas with the RHS in what I think is the `simp`-normal form.

**Comment by jsm28** [comment]
I've removed the dependency on #29422 now the defeq issue for `DecidableEq` for `Fin` is hopefully otherwise resolved, which should make this PR less controversial.

File: Mathlib/Data/Finset/Max.lean [hunk 2]
```diff
@@ -312,18 +320,26 @@ theorem min'_subset {s t : Finset α} (H : s.Nonempty) (hst : s ⊆ t) :
...
-theorem max'_insert (a : α) (s : Finset α) (H : s.Nonempty) :
+@[simp] theorem max'_insert (a : α) (s : Finset α) (H : s.Nonempty) :
     (insert a s).max' (s.insert_nonempty a) = max (s.max' H) a :=
   (isGreatest_max' _ _).unique <| by
     rw [coe_insert, max_comm]
     exact (isGreatest_max' _ _).insert _
 
-theorem min'_insert (a : α) (s : Finset α) (H : s.Nonempty) :
+@[simp] theorem min'_insert (a : α) (s : Finset α) (H : s.Nonempty) :
     (insert a s).min' (s.insert_nonempty a) = min (s.min' H) a :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Max.lean]: Probably we should fix this to
```suggestion
    (insert a s).min' (s.insert_nonempty a) = min a (s.min' H) :=
```
to match `min_insert` above

**Comment by eric-wieser** [comment]
bors d+

Please explain the reason for the swap and the addition of the simp attribute in the PR description before merging.
